US06469046B1
a) Ethyl 5-Hydroxyindole-2-carboxylate
A solution of 5-benzyloxyindole-2-carboxylic acid ethyl ester (10 g, 34 mmol) in 250 mL of ethanol was treated with 10% Pd/C and hydrogenated under atmospheric pressure (double-walled balloon) for 20 h. The reaction mixture was diluted with EtOAc and filtered through Celite®. Evaporation of the filtrate in vacuo gave the title compound as a tan solid (7 g, 99%). 1H NMR (400 MHz, CDCl3) δ 8.86 (br s, 1H), 7.29 (d, J=8.80 Hz, 1H), 7.11 (s, 1H), 7.06 (s, 1H), 6.94 (d, J=8.70 Hz, 1H), 4.83 (br s, 1H), 4.42 (q, J=7.09 Hz, 2H), 1.41 (t, J =7.08 Hz, 3H).

reactant | 5-benzyloxyindole-2-carboxylic acid ethyl ester | 34 mmol, 10 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC1=CC=CC=C1 | C18H17NO3
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | Ethyl 5-Hydroxyindole-2-carboxylate | 7 g, 99% | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
